US07427635B2
To a solution of hydroxymethyl-phosphonic acid dimethyl ester (2.0 g, 14.5 mmol) in anhydrous dichloromethane (50 mL) at −20° C. was added pyridine (1.4 mL, 16.7 mmol) followed by trifluoromethanesulfonic anhydride (2.7 mL, 15.9 mmol). After stirring at 0° C. for 0.5 hours, the mixture was filtered through celite with a thin layer of silica gel. The filtrate was washed with cold 1.0 N aqueous hydrochloric acid, water, saturated aqueous sodium bicarbonate and dried over sodium sulfate. The solvents were removed to give trifluoro-methanesulfonic acid dimethoxy-phosphorylmethyl ester as an oil (2.1 g, 53%).

reactant | hydroxymethyl-phosphonic acid dimethyl ester | 14.5 mmol, 2.0 g | COP(OC)(=O)CO | C3H9O4P
reactant | pyridine | 16.7 mmol, 1.4 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 15.9 mmol, 2.7 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | trifluoro-methanesulfonic acid dimethoxy-phosphorylmethyl ester | 2.1 g, 53% | COP(=O)(OC)COS(=O)(=O)C(F)(F)F | C4H8F3O6PS
